* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\FETs\FET03op.asc
J1 d g s JFET
Vdd N001 0 {Vdd}
Rd N001 d {Rd}
Rs s 0 {Rs}
R1 N001 g {R1}
R2 g 0 {R2}
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.jft
.op
.model JFET njf(Beta=3m Vto=-5)
.param Vdd=25 Rs=120 Rd=560 R1=4.7Meg R2=680k
.backanno
.end
