* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\FETs\FET05op.asc
Vdd N001 0 {Vdd}
Rd N001 d {Rd}
Rs s 0 {Rs}
R2 g 0 {R2}
J1 d g s JFET
R1 N001 g {R1}
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.jft
.op
.model JFET pjf(Beta=5m Vto=-2)
.param Vdd=-20 Rs=150 Rd=330 R1=3.9Meg R2=220k
.backanno
.end
