* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\NonIdeal\LarguraBanda.asc
V1 N001 0 ac 1
XU1 N001 0 +V -V 2 level2 Avol=1Meg GBW=0.8Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V2 +V 0 {Vs}
V3 0 -V {Vs}
;.ac oct 10 .1 100Meg
* A single pole opamp with one internal node,\nslew rate limit and output voltage and current limit.\nAvol=DC gain  GBW=GBW product\nSlew=Slewrate limit  ilimit=current limit\nrail=output stage saturation voltage\nVos=offset voltage\nen=equiv. input noise voltage density\nenk=equiv. input noise voltage density corner freq.\nin=equiv. input noise current density\nink=equiv. input noise current density corner freq.\nRin=Input resistance
.param Vs=15
.op
.lib UniversalOpAmp2.lib
.backanno
.end
