* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\NonIdeal\nideal02op.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
Vi i 0 {Vi}
XU1 0 neg Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 i neg {R1}
R2 neg o {R2}
.param Vs=15 Vi=5 R1=2.7k R2=3.3k RL=100
.op
.meas G param V(o)/V(i)
.lib UniversalOpAmp2.lib
.backanno
.end
