* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\OPAMPTBJ\OPAMPTBJ05.asc
Q1 N001 0 x 0 TBJ
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
Vi i 0 {Vi}
XU1 0 N001 Vpp Vnn x level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 i N001 {R1}
Q2 N003 0 y 0 TBJ
XU3 0 N003 Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N003 o {R4}
XU2 a N002 Vpp Vnn y level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R2 N002 y {R3}
R3 0 N002 {R2}
R5 x a {R2}
R6 a 0 {R3}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param Vi=0.25 Vs=50 R1=1k R2=10k R3=11k R4=1.5k RL=10k
.op
.model TBJ NPN(IS=16F BF=150 NF=1.4)
.lib UniversalOpAmp2.lib
.backanno
.end
