* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\OPAMPTBJ\OPAMPTBJ01D.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
Vi i 0 {Vi}
XU1 0 neg Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 i neg {R1}
D2 neg o D2
.model D D
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Vi=10 Vs=15 R1=1k RL=10k
.op
.model D2 D(IS=10F N=1.2)
.lib UniversalOpAmp2.lib
.backanno
.end
