* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB00op.asc
J1 D 0 S JFET
Rb cc B {Rb}
Rc cc C {Rc}
Vcc cc 0 {Vcc}
Q1 C B D 0 TBJ
Rs S 0 {Rs}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.jft
.op
.model JFET njf(Beta=5m Vto=-1)
.param Vcc=20 Rb=680k Rc=220 Rs=120
.model TBJ NPN(IS=10F BF=150)
.backanno
.end
