* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB03op.asc
RC cc N001 {RC}
Vcc cc 0 {Vcc}
Q1 N002 b1 N003 0 TBJ1
RE N003 0 {RE}
R1 cc b2 {R1}
R2 b2 b1 {R2}
Q2 N001 b2 N002 0 TBJ2
R3 b1 0 {R3}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vcc=30 R1=33k R2=18k R3=15k RC=680 RE=330
.model TBJ1 NPN(IS=10F BF=350)
.model TBJ2 NPN(IS=10F BF=350)
.backanno
.end
