* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB05op.asc
RE N003 0 {RE}
Vcc cc 0 {Vcc}
Q2 cc N002 N003 0 TBJ2
RB cc N001 {RB}
Q1 cc N001 N002 0 TBJ1
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.param Vcc=25 RB=150k RE=180
.model TBJ1 NPN(IS=15F BF=5)
.model TBJ2 NPN(IS=15F BF=5)
.backanno
.end
