* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB09op.asc
R2 o x {R2}
R1 y 0 {R1}
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
R3 x 0 {R3}
D1 y o DZ1
XU1 x y Vpp 0 o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\ruseler\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.param Vs=20 R1=100 R2=27k R3=2.7k
.model DZ1 D(Is=1.000e-14 n=1 bv=5)
.meas vz param v(o)-v(y)
.lib UniversalOpAmp2.lib
.backanno
.end
